US06949542B2
(2-{3-[3-(2-Cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J33) (228 mg, 0.75 mmol) and 3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K24) (242 mg, 0.75 mmol) according to the general procedure M. Obtained as a light brown solid (308 mg, 74%).

reactant | (2-amino-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 228 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC)C(F)(F)F)N)=O | C14H19F3N2O2
reactant | 3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 242 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C#N)=O | C19H18N2O3
product | (2-{3-[3-(2-Cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C#N)=O)=O | C29H27F3N4O4
